US06903086B2
To a solution of 5-pyridin-2yl-benzofuran-2-carboxylic acid (770 mg, 2.9 mmol) in 28 mL t-butanol and 2.5 mL methanol was added NaBH4 (275 mg, 7.2 mmol). The mixture was heated at 50° C. under argon overnight, allowed to cool, poured into brine, extracted with ethyl acetate, washed with brine, dried (MgSO4), and evaporated. Purification by chromatography gave 404 mg of (5-pyridin-2-yl-benzofuran-2-yl)-methanol. MS: (M+H)+=226.

reactant | 5-pyridin-2yl-benzofuran-2-carboxylic acid | 2.9 mmol, 770 mg | N1=C(C=CC=C1)C=1C=CC2=C(C=C(O2)C(=O)O)C1 | C14H9NO3
reactant | NaBH4 | 7.2 mmol, 275 mg | [BH4-].[Na+]
solvent | t-butanol | 28 mL | C(C)(C)(C)O | C4H10O
solvent | methanol | 2.5 mL | CO | CH4O
solvent | brine | [Cl-].[Na+].O
product | (5-pyridin-2-yl-benzofuran-2-yl)-methanol | 404 mg | N1=C(C=CC=C1)C=1C=CC2=C(C=C(O2)CO)C1 | C14H11NO2
